US08193199B2
Prepared according to Procedure H using (1S)-1-(8-chloro-2-(thiazol-4-yl)-quinolin-3-yl)ethanamine (0.045 g, 0.155 mmol), 6-chloropurine (0.029 g, 0.19 mmol, 1.2 eq) and DIEA (0.33 mmol, 2.0 eq) in n-butanol (3 mL). N-((S)-1-(8-chloro-2-(thiazol-4-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine [PI3Kδ IC50=16 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 9.22 (s, 1H), 8.63 (s, 1H), 8.44-8.46 (m, 1H), 8.42 (s, 1H), 8.34 (s, 1H), 7.88-7.93 (m, 2H), 7.56 (t, 1H), 1.77 (d, 3H), Mass Spectrum (ESI) m/e=408 (M+1).

reactant | (1S)-1-(8-chloro-2-(thiazol-4-yl)-quinolin-3-yl)ethanamine | 0.155 mmol, 0.045 g | ClC=1C=CC=C2C=C(C(=NC12)C=1N=CSC1)[C@H](C)N | C14H12ClN3S
reactant | 6-chloropurine | 0.19 mmol, 0.029 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.33 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((S)-1-(8-chloro-2-(thiazol-4-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C=1N=CSC1)[C@H](C)NC1=C2N=CNC2=NC=N1 | C19H14ClN7S
